US07960374B2
1-Methyl-8-(phenylsulfonyl)-1,3,4,8-tetrahydro-2H-[1,4]oxazepino[6,7-e]indole
1,1′-Azobis(N,N-dimethylformamide) (73 mg, 0.43 mmol) was added to a solution of 1-[5-hydroxy-1-(phenylsulfonyl)-1H-indol-4-yl]ethanone (Intermediate 23, 67 mg, 0.21 mmol), tert-butyl N-(2-hydroxy-ethyl)carbamate (0.14 g, 0.85 mmol) and triphenylphosphine (112 mg, 0.430 mmol) in DCM (5 mL). The mixture was heated at 43° C. for 1 hour and additional 1,1′-azobis(N,N-dimethylformamide) (0.030 g, 0.17 mmol) was added and the mixture was heated at 43° C. for an additional 2 hours. The mixture was cooled to room temperature and TFA (2.5 mL) was added and the mixture was stirred for 1 hour and evaporated. The residue was partitioned between DCM and 1 M NaOH. The organic phase was dried (MgSO4) and evaporated. The crude product was purified by flash chromatography using 5% MeOH in DCM as the eluent to give 75 mg of 1-methyl-8-(phenylsulfonyl)-3,8-dihydro-4H-[1,4]oxazepino[6,7-e]indole. Acetic acid (132 mg, 2.20 mmol) was added to a solution of the 1-methyl-8-(phenylsulfonyl)-3,8-dihydro-4H-[1,4]oxazepino[6,7-e]indole (75.0 mg, 0.22 mmol) in DCM (10 mL) and the mixture was allowed to stir for 10 minutes at room temperature before sodium triacetoxyborohydride (0.070 g, 0.33 mmol) was added all in one portion. The mixture was stirred for 30 minutes and transferred to a separation funnel and washed with 1 M NaOH and brine. The organic phase was dried (MgSO4) and evaporated. The crude product was purified by flash chromatography on silica gel using MeOH:DCM:NEt3 (5:94:1) as the eluent to give the title compound (28 mg) as a white solid. MS m/z 343 [M+H]+.

reactant | Acetic acid | 2.20 mmol, 132 mg | C(C)(=O)O | C2H4O2
reactant | 1-methyl-8-(phenylsulfonyl)-3,8-dihydro-4H-[1,4]oxazepino[6,7-e]indole | 0.22 mmol, 75.0 mg | CC1=NCCOC=2C1=C1C=CN(C1=CC2)S(=O)(=O)C2=CC=CC=C2 | C18H16N2O3S
reactant | sodium triacetoxyborohydride | 0.33 mmol, 0.070 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-Methyl-8-(phenylsulfonyl)-1,3,4,8-tetrahydro-2H-[1,4]oxazepino[6,7-e]indole | 28 mg | CC1NCCOC=2C1=C1C=CN(C1=CC2)S(=O)(=O)C2=CC=CC=C2 | C18H18N2O3S
